US09315458B2
F) ethyl 4-(1H-pyrazol-1-yl)benzoate
To a solution of ethyl 4-fluorobenzoate (105 g) in DMSO (250 mL) were added pyrazole (34.0 g) and potassium carbonate (138 g), and the mixture was heated with stirring at 130° C. for 16 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (73.7 g).

reactant | ethyl 4-fluorobenzoate | 105 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | pyrazole | 34.0 g | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 138 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 250 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | ethyl 4-(1H-pyrazol-1-yl)benzoate | 73.7 g | N1(N=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C12H12N2O2
